US04439514
N-(2-Propynyl)-2-methyl-4-nitroaniline
To a suspension of potassium carbonate (20.0 g) in DMSO (7 ml) was added triethylamine (3 ml) and 2-propyn-1-amine (7.10 g, 1.29×10-1 mole). 2-Fluoro-5-nitrotoluene (20.00 g, 1.29×10-1 mole) was added with stirring and the reaction mixture was heated at 50° C. for three days. The mixture was cooled, poured into excess water, and extracted with methylene chloride. The methylene chloride solution was dried over sodium sulfate, filtered and evaporated. The residue was chromotographed on a silica column, eluting with benzene, and recrystallized from benzene to afford yellow crystals; m.p. 121°-123° C. Yield: 15.02 g (61%). I.R. (KBr): 3344 (NH), 3226 (CH), 1580 and 1282 cm-1 (Ar-NO2).

reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propyn-1-amine | 1.29×10-1 mole, 7.10 g | C(C#C)N | C3H5N
reactant | 2-Fluoro-5-nitrotoluene | 1.29×10-1 mole, 20.00 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | KBr | [K+].[Br-]
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Propynyl)-2-methyl-4-nitroaniline | C(C#C)NC1=C(C=C(C=C1)[N+](=O)[O-])C | C10H10N2O2
